### PR TITLE
feat: add BV De Morgan's (extended) theorems from Hacker's Delight, 2.1

### PR DESCRIPTION
**Pull request by bollu**
This PR adds bitvector theorems that to push negation into other operations, following Hacker's Delight: Ch2.1.

### CODE REVIEW

**Comment by bollu** [comment]
changelog-library

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -1338,4 +1338,27 @@ theorem eq_iff_eq_of_inv (f : α → BitVec w) (g : BitVec w → α) (h : ∀ x,
     have := congrArg g h'
     simpa [h] using this
 
+/-! ### Lemmas that use Bitblasting circuits -/
+
+theorem add_sub_eq_sub_add {x y : BitVec w} : x + y - z = x - z + y := by
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Bitblast.lean:1343]: nit
```suggestion
theorem add_sub_eq_sub_add {x y z : BitVec w} : x + y - z = x - z + y := by
```

**Review by luisacicolini — APPROVED** [review]
